US06331640B1
A solution of lithium aluminum hydride in tetrahydrofuran (1.0 M; 0.51 mL, 0.51 mmol) was added dropwise over 12 min to a cooled (0° C.) solution of 4-azidomethyl-1-(tetrahydro-2H-pyran-2-yl)-1H-indazole (130 mg, 0.505 mmol) in dry tetrahydrofuran (1.5 mL). The solution was stirred at 0° C. for 1 h and then quenched with 1 M sodium hydroxide (75 βL) over approx. 1 min. The cooling bath was removed and the mixture was stirred for 1 h. The mixture was diluted with ethyl acetate (3 mL), dried (Na2SO4), filtered through Celite (which was washed with ethyl acetate), and concentrated to give 4-aminomethyl-1-(tetrahydro-2H-pyran-2-yl)-1H-indazole (106 mg, 91%) as a yellow solid.

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-azidomethyl-1-(tetrahydro-2H-pyran-2-yl)-1H-indazole | 0.505 mmol, 130 mg | N(=[N+]=[N-])CC1=C2C=NN(C2=CC=C1)C1OCCCC1 | C13H15N5O
solvent | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.51 mmol, 1.0 M, 0.51 mL | O1CCCC1 | C4H8O
product | 4-aminomethyl-1-(tetrahydro-2H-pyran-2-yl)-1H-indazole | 106 mg, 91% | NCC1=C2C=NN(C2=CC=C1)C1OCCCC1 | C13H17N3O
